### ISSUE TITLE
Parser.lean - parse tactic combinators

### ISSUE THREAD

**Issue by lakesare** [Paper-Proof/paperproof#12]
Deal with backtracking tactic combinators [issue](https://github.com/lean-dojo/LeanDojo/discussions/14#discussioncomment-6424596)

There is also a similar issue for `repeat`, can be checked for this proof. Again - can be fixed in the Converter, but better fixed in the Parser if possible.

```
import Mathlib.Tactic
import Mathlib.Data.Real.Basic

variable (a b c d : ℝ)

example : min a b = min b a := by
  apply le_antisymm
  repeat
    apply le_min
    apply min_le_right
    apply min_le_left
```

<img width="1114" alt="image" src="https://github.com/Paper-Proof/paper-proof/assets/7578559/60cd9c9a-cc58-4068-a1bb-db2e5645afee">

**Comment by lakesare** [comment]
Anton fixed this (by just taking the last subtree)

<img width="735" alt="image" src="https://github.com/Paper-Proof/paperproof/assets/7578559/a7c3ef4f-fd46-4811-9ae4-e0a1db7c928a">
